US09120749B2
1-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)propan-1-one
tert-butyl 1-(5-(6-(3,5-dichloro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (35 mg, 0.055 mmol) was dissolved in dichloromethane (5 mL). To this solution was added a 2.0 M HCl solution in diethyl ether (2 mL) the mixture was stirred for 16 h at room temperature where a precipitate formed. The precipitate was filtered off, washed with dichloromethane (10 mL), dried under vacuum to obtain the desired product as the HCl salt (12 mg, 33%) as a yellow solid: 1H NMR (500 MHz, MeOD) δ 9.29 (s, 1H), 8.24 (m, 2H), 8.04 (m, 2H), 7.81 (d, J=8.3 Hz, 1H), 7.31 (s, 2H), 7.25 (d, J=8.9 Hz, 1H), 4.53 (s, 1H), 4.06 (d, J=13.3 Hz, 1H), 3.39 (m, 2H), 3.24 (q, J=14.1, 7.0 Hz, 2H), 2.22 (m, 1H), 1.98 (m, 1H), 1.74 (m, 2H), 1.25 (t, J=6.9 Hz, 3H); ESI MS m/z 536, [C28H27Cl2N5O2+H]+; HPLC 98.9% (AUC), tR=10.33 min.

reactant | tert-butyl 1-(5-(6-(3,5-dichloro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.055 mmol, 35 mg | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C33H35Cl2N5O4
reactant | HCl | 2.0 M | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 1-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)propan-1-one | 12 mg, 33% | NC1CN(CCC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(CC)=O | C28H27Cl2N5O2
